US08466167B2
A mixture of 3-chloro-8-methylbenzo[f][1,7]naphthyridin-5-amine (from the previous step) (1.0 eq.) potassium fluoride (4.0 eq.), and 18-crown-6 (0.4 eq.) in NMP (0.1M) was heated in microwave reactor at 210° C. for 2 hours. After cooling to ambient temperature, the reaction residue was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-30% EtOAc/Hexanes to give 3-fluoro-8-methylbenzo[f][1,7]naphthyridin-5-amine as a white solid. 1H NMR (acetone-d6): δ 9.20 (dd, 1H), 8.32 (d, 1H), 7.58 (dd, 1H), 7.46 (d, 1H), 7.21 (dd, 1H), 6.51 (br s, 2H), 2.47 (s, 3H). LRMS [M+H]=228.1.

reactant | 3-chloro-8-methylbenzo[f][1,7]naphthyridin-5-amine | ClC1=NC2=C(N=C3C(=C2C=C1)C=CC(=C3)C)N | C13H10ClN3
reactant | potassium fluoride | 1.0 eq. | [F-].[K+]
reactant | 18-crown-6 | 0.4 eq. | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | NMP | 0.1M | CN1CCCC1=O | C5H9NO
product | 3-fluoro-8-methylbenzo[f][1,7]naphthyridin-5-amine | FC1=NC2=C(N=C3C(=C2C=C1)C=CC(=C3)C)N | C13H10FN3
